US05962457
A mixture of 3-(2-chloro-phenyl)-2-[2-pyrid-2-yl-vinyl]-3H-thieno[3,2-d]pyrimidin-4-one (0.12 g, 0.33 mmol), ethanol, 10 mL), formic acid (0.55 mL, 14.8 mmol) and 10% palladium on carbon (0.12 g) was refluxed 4 hours, cooled and diluted with ethanol and water. The mixture was filtered through Celite® (trademark) and the pad was rinsed with ethyl acetate and water. The filtrate was treated with saturated aqueous sodium bicarbonate and the phases were separated. The aqueous layer was extracted with ethyl acetate and the combined organic phase was washed with water and brine, dried over sodium sulfate, and concentrated to afford 0.094 g of 3-(2-chloro-phenyl)-2-(2-pyridin-2-yl-ethyl)-3H-thieno[3,2-d]pyrimidin-4-one as a tan film. The material was dissolved in dioxane (3 mL) and treated with ether saturated with hydrogen chloride. The solid was collected and weighed 0.094 g. The solid was taken up in water, concentrated, and azeotropically dried by suspending the product in chloroform and concentrating three times to yield 3-(2-chloro-phenyl)-2-(2-pyridin-2-yl-ethyl)-3H-thieno[3,2-d]pyrimidin-4-one hydrochloride (0.038 g, 31%) as a yellow solid.

reactant | 3-(2-chloro-phenyl)-2-[2-pyrid-2-yl-vinyl]-3H-thieno[3,2-d]pyrimidin-4-one | 0.33 mmol, 0.12 g | ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)SC=C2)C=CC2=NC=CC=C2 | C19H12ClN3OS
reactant | formic acid | 14.8 mmol, 0.55 mL | C(=O)O | CH2O2
catalyst | palladium on carbon | 0.12 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-(2-chloro-phenyl)-2-(2-pyridin-2-yl-ethyl)-3H-thieno[3,2-d]pyrimidin-4-one | 0.094 g | ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)SC=C2)CCC2=NC=CC=C2 | C19H14ClN3OS
